US09212154B2
Under an argon atmosphere, L-cysteine (2.42 g, 20.0 mmol), D-galactose (3.60 g, 20.0 mmol), and pyridine (0.40 ml, 5.0 mmol) were added to water (340 ml), and the solution was heated at 65° C. for 1 hour, and left standing at room temperature for 2 hours. The precipitated solid was collected by filtration, and dried under reduced pressure to give 2-(1,2,3,4,5-pentahydroxypentyl)thiazolidine-4-carboxylic acid (4.70 g) as white crystals.

reactant | L-cysteine | 20.0 mmol, 2.42 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | D-galactose | 20.0 mmol, 3.60 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | pyridine | 5.0 mmol, 0.40 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 340 ml | O | H2O
product | 2-(1,2,3,4,5-pentahydroxypentyl)thiazolidine-4-carboxylic acid | 4.70 g | OC(C(C(C(CO)O)O)O)C1SCC(N1)C(=O)O | C9H17NO7S
